US09315521B2
To a solution of 4-methyl-1H-imidazole-5-carbaldehyde (5.0 g, 45.4 mmol) in anhydrous THF (50 mL) was added diaza(1,3)bicyclo[5.4.0]undecane (DBU, 6.8 mL, 45.4 mmol) and 2-iodopropane (4.5 mL, 45.4 mmol). The reaction mixture was stirred at room temperature overnight. Water (50 mL) was added. The mixture was extracted with EtOAc (1×50 mL) and 2-butanol (2×50 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude product was purified by flash chromatography (0-2% MeOH/DCM), affording 4-methyl-1-(propan-2-yl)-1H-imidazole-5-carbaldehyde (691 mg, 10% yield).

reactant | 4-methyl-1H-imidazole-5-carbaldehyde | 45.4 mmol, 5.0 g | CC=1N=CNC1C=O | C5H6N2O
reactant | 2-iodopropane | 45.4 mmol, 4.5 mL | IC(C)C | C3H7I
reactant | Water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-methyl-1-(propan-2-yl)-1H-imidazole-5-carbaldehyde | 691 mg, 10% yield | CC=1N=CN(C1C=O)C(C)C | C8H12N2O
